US07741327B2
To a solution of ((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol (60.00 g, 454.0 mmol) and 1,4-diazabicyclo[2.2.2]octane (63.67 g, 567.6 mmol) in ethyl acetate 600 mL) at 15° C. was added 4-chlorobenzenesulfonyl chloride (100.6 g, 476.7 mmol) and the resulting cloudy solution stirred for 2 h before being warmed to room temperature. The resulting solution was stirred at room temperature for 4 h before cold water (300 mL) was added and the resulting mixture stirred at room temperature overnight. The mixture was diluted with heptane (600 mL) and the organic layer was separated and washed with water (3×600 mL). The mixture was concentrated under vacuum to provide a yellow oil which was treated with heptane (200 mL). The mixture was concentrated to remove any remaining ethyl acetate and heptane (500 mL) was added once more to induce crystallization. The thick white suspension was filtered, washed with heptane, and suction dried to provide 4-chloro-benzenesulfonic acid (S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester (129.93 g, 93.3%, 98.9% pure HPLC, 99.89% e.e) as a white solid.

reactant | ((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 454.0 mmol, 60.00 g | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | 1,4-diazabicyclo[2.2.2]octane | 567.6 mmol, 63.67 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 4-chlorobenzenesulfonyl chloride | 476.7 mmol, 100.6 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | water | 300 mL | O | H2O
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
solvent | heptane | 600 mL | CCCCCCC | C7H16
solvent | heptane | 200 mL | CCCCCCC | C7H16
product | 4-chloro-benzenesulfonic acid (S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester | 129.93 g | CC1(OC[C@H](O1)COS(=O)(=O)C1=CC=C(C=C1)Cl)C | C12H15ClO5S
